US09278980B2
In an alternate embodiment, a method is described of producing a monomer wherein the method begins by dissolving 3-fluoro-4,6 dihydrothieno[3,4-b]thiophene in tetrahydrofuran in a non-oxygen atmosphere to create a solution. An initiator of n-butyllithium is then added to the solution to produce an initiated solution. This is followed by adding N-fluorobenzenesulfonimide to the initiated solution to produce 2,3-difluoro-4,6-dihydrothieno[3,4-b]thiophene. 2,3-difluoro-4,6-dihydrothieno[3,4-b]thiophene is then oxidized with meta-chloroperoxybenzoic acid to produce 2,3-difluorothieno[3,4-b]thiophene. 2,3-difluorothieno[3,4-b]thiophene is then bromoated with N-bromosuccinimide to produce 4,6-dibromo-2,3-difluorothieno[2,3-c]thiophene. The final step involves debrominating 4,6-dibromo-2,3-difluorothieno[2,3-c]thiophene and adding an aryl group to produce the monomer

reactant | 2,3-difluoro-4,6-dihydrothieno[3,4-b]thiophene | FC1=C(C2=C(S1)CSC2)F | C6H4F2S2
reactant | meta-chloroperoxybenzoic acid | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
product | 2,3-difluorothieno[3,4-b]thiophene | FC1=C(C=2C(S1)=CSC2)F | C6H2F2S2
